US04940790
(a) 2-bromo-1-(3,5-di-tert.butyl-4-hydroxyphenyl)-ethanone
206 g (0.83 mol) of 1-(3,5-di-tert.butyl-4-hydroxyphenyl)ethanone were dissolved in 415 ml of methylene chloride while stirring, the solution was heated to boiling, and 144 g (0.9 mol) of bromine were added dropwise over the course of 30 minutes. The mixture was then refluxed for a further 2 hours and cooled, 400 ml of water were added, and the organic phase was separated off and dried over sodium sulfate. After the solvent had been removed under reduced pressure, the solid crude product obtained was recrystallized from 540 ml of methylcyclohexane.

reactant | 1-(3,5-di-tert.butyl-4-hydroxyphenyl)ethanone | 0.83 mol, 206 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(C)=O | C16H24O2
reactant | bromine | 0.9 mol, 144 g | BrBr | Br2
reactant | water | 400 ml | O | H2O
solvent | methylene chloride | 415 ml | C(Cl)Cl | CH2Cl2
product | 2-bromo-1-(3,5-di-tert.butyl-4-hydroxyphenyl)-ethanone | BrCC(=O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C16H23BrO2
